US06043248
Methylmagnesium bromide (9.7 ml, 29 mmole) is added to 20 ml dry tetrahydrofuran in an oven dried 100 ml two neck round bottom flask under nitrogen at 0° C. The solution is treated with 4-t-Butyl-2-pyridine-carboxaldehyde (3.8 g, 23.3 mmole) in 2×5 ml diethyl ether followed by 10 ml diethyl ether. The reaction is warmed to room temperature and then to reflux for 1 h. The mixture is cooled to 0° C., is quenched with 1×20 ml 10% hydrochloric acid, and the pH is adjusted to 9 with 2 N sodium hydroxide. The layers are separated, the aqueous layer is extracted with 4×25 ml dichloromethane, and the combined organics are dried over potassium carbonate. The dried organics are concentrated in vacuo to give 3.9 g (93%) of 4-t-Butyl-2-(1-hydroxyethyl)-pyridine as a tan solid. Analytical material is obtained via recrystallization from hexane.

reactant | Methylmagnesium bromide | 29 mmole, 9.7 ml | C[Mg]Br
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-t-Butyl-2-pyridine-carboxaldehyde | 23.3 mmole, 3.8 g | C(C)(C)(C)C1=CC(=NC=C1)C=O | C10H13NO
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4-t-Butyl-2-(1-hydroxyethyl)-pyridine | 3.9 g, 93% | C(C)(C)(C)C1=CC(=NC=C1)C(C)O | C11H17NO
